US09278936B2
In a glass vial, amorphous 1-(3-tert-butyl-1-p-tolyl-1H-pyrazol-5-yl)-3-(5-fluoro-2-(1-(2-hydroxyethyl)-1H-indazol-5-yloxy)benzyl)urea (50 mg, 0.090 mmol, 1 equivalent) was dissolved in 833 μL of solvent (acetonitrile, isopropyl acetate, ethyl acetate, acetone, isopropyl alcohol or ethanol) at ambient temperature. A single 94.3 μL aliquot of 1 M HCl in acetone (0.094 mmol, 1.05 equivalents) was added to the vial. The vial was shaken for at least 24 hours at ambient temperature and allowed to evaporate. The resulting crystalline solids (birefringent under cross-polarized light microscopy) were dried under vacuum at 50° C. overnight, and the crystalline solids were recovered. The solvents used provided 1-(3-tert-butyl-1-p-tolyl-1H-pyrazol-5-yl)-3-(5-fluoro-2-(1-(2-hydroxyethyl)-1H-indazol-5-yloxy)benzyl)urea hydrochloride Form B in all cases. Methods of characterizing 1-(3-tert-butyl-1-p-tolyl-1H-pyrazol-5-yl)-3-(5-fluoro-2-(1-(2-hydroxyethyl)-1H-indazol-5-yloxy)benzyl)urea hydrochloride Form B are described in Examples 2-F and 2-G.

reactant | 1-(3-tert-butyl-1-p-tolyl-1H-pyrazol-5-yl)-3-(5-fluoro-2-(1-(2-hydroxyethyl)-1H-indazol-5-yloxy)benzyl)urea | 0.090 mmol, 50 mg, 1 equivalent | C(C)(C)(C)C1=NN(C(=C1)NC(=O)NCC1=C(C=CC(=C1)F)OC=1C=C2C=NN(C2=CC1)CCO)C1=CC=C(C=C1)C | C31H33FN6O3
reactant | HCl | 1 M | Cl | ClH
reactant | acetone | 0.094 mmol, 1.05 equivalents | CC(=O)C | C3H6O
product | 1-(3-tert-butyl-1-p-tolyl-1H-pyrazol-5-yl)-3-(5-fluoro-2-(1-(2-hydroxyethyl)-1H-indazol-5-yloxy)benzyl)urea hydrochloride | Cl.C(C)(C)(C)C1=NN(C(=C1)NC(=O)NCC1=C(C=CC(=C1)F)OC=1C=C2C=NN(C2=CC1)CCO)C1=CC=C(C=C1)C | InChI=1S/C31H33FN6O3.ClH/c1-20-5-8-24(9-6-20)38-29(17-28(36-38)31(2,3)4)35-30(40)33-18-22-15-23(32)7-12-27(22)41-25-10-11-26-21(16-25)19-34-37(26)13-14-39;/h5-12,15-17,19,39H,13-14,18H2,1-4H3,(H2,33,35,40);1H
